US07790882B2
1-(4-Chlorophthalazin-1-yl)-7-methoxy-naphthalen-2-ol
In a 1 L flask under nitrogen were mixed 1,4-dichlorophthalazine (11.4 g, 57.3 mmol) with 7-methoxy-naphthalen-2-ol (10.0 g, 57.5 mmol). To this was added 1,2-dichloroethane (450 ml). After stirring for 10 min, aluminum chloride (7.64 g, 57.4 mmol) was added. The resulting suspension was stirred for 20 hrs at 80° C. After cooling to room temperature, the black suspension was poured on ice-water (500 ml) and stirred for 1 hr. The two layers were separated. The aqueous layer was extracted with dichloromethane (3×200 ml). The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure. The crude solid was triturated with dichloromethane (35 ml) for 1 hr and collected by filtration to give 15.2 g of the title compound as a grey solid. (Yield: 80%)

reactant | 1,4-dichlorophthalazine | 57.3 mmol, 11.4 g | ClC1=NN=C(C2=CC=CC=C12)Cl | C8H4Cl2N2
reactant | 7-methoxy-naphthalen-2-ol | 57.5 mmol, 10.0 g | COC1=CC=C2C=CC(=CC2=C1)O | C11H10O2
reactant | aluminum chloride | 57.4 mmol, 7.64 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 450 ml | ClCCCl | C2H4Cl2
product | 1-(4-Chlorophthalazin-1-yl)-7-methoxy-naphthalen-2-ol | 15.2 g, Yield: 80% | ClC1=NN=C(C2=CC=CC=C12)C1=C(C=CC2=CC=C(C=C12)OC)O | C19H13ClN2O2
